US03979410
Preparation of α-acetyl-β-dimethylamino-2-nitrostyrene
To a stirred solution of 3.84 g. of β-dimethylamino-2-nitrostyrene and 1.61 ml. of pyridine in 20 ml. of ether, was added dropwise a solution of 1.42 ml. of acetyl chloride in 5 ml. of ether. The mixture was stirred for 3 hours at 0° and filtered. The gummy solid was partitioned between methylene chloride and water. The organic phase was washed with dilute hydrochloride, dried and concentrated to a dark oil. The nmr spectrum was in agreement with the proposed structure. This product, i.e., α-acetyl-β-dimethylamino-2-nitrostyrene was used without further purification in the next step.

reactant | β-dimethylamino-2-nitrostyrene | CN(C=CC1=C(C=CC=C1)[N+](=O)[O-])C | C10H12N2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | ether | CCOCC | C4H10O
product | α-acetyl-β-dimethylamino-2-nitrostyrene | C(C)(=O)C(=CN(C)C)C1=C(C=CC=C1)[N+](=O)[O-] | C12H14N2O3
